US07858624B2
A solution of the HCl salt of (3S,4S)-4-amino-N-butyl-5-cyclohexyl-3-hydroxypentanamide (279 mg, 1.03 mmol), TBSCl (311 mg, 2.06 mmol) and imidazole (281 mg, 4.12 mmol) in dry DMF (2 mL) was stirred at rt for 2 d. The mixture was diluted with EtOAc (90 mL), washed with 1:1 water/brine (3×20 mL), dried over Na2SO4 and concentrated to leave crude (3S,4S)-4-amino-N-butyl-3-(tertbutyldimethylsilyloxy)-5-cyclohexylpentanamide (311 mg, 78%) as a yellow syrup.

reactant | HCl | Cl | ClH
reactant | (3S,4S)-4-amino-N-butyl-5-cyclohexyl-3-hydroxypentanamide | 1.03 mmol, 279 mg | N[C@H]([C@H](CC(=O)NCCCC)O)CC1CCCCC1 | C15H30N2O2
reactant | TBSCl | 2.06 mmol, 311 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 4.12 mmol, 281 mg | N1C=NC=C1 | C3H4N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 90 mL | CCOC(=O)C | C4H8O2
product | (3S,4S)-4-amino-N-butyl-3-(tertbutyldimethylsilyloxy)-5-cyclohexylpentanamide | 311 mg, 78% | N[C@H]([C@H](CC(=O)NCCCC)O[Si](C)(C)C(C)(C)C)CC1CCCCC1 | C21H44N2O2Si
